US04490369
(b) 1-[7,8-Dimethoxy-1,3-dihydro-2H-3-benzazepin-2-on-3-[N-methyl-N-(2-{3,4-dimethoxyphenyl}-ethyl)-amino]-propane hydrochloride
A mixture of 5.9 gm (0.02 mol) of 1-(7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-on-3-yl) -3-chloro propane and 11.7 gm (0.0006 mol) of N-methyl-N-[2-(3,4-dimethoxy-phenyl)-ethyl]-amine was heated at 100° C. for 3 hours, then cooled and dissolved in ethyl acetate/water. The organic phase was removed, washed three times with 1% acetic acid and extracted by shaking twice with 2N hydrochloric acid. The hydrochloric acid extract was made alkaline with ammonia and extracted with methylene chloride. The solvent of the extract was removed in vacuo; the residue was dissolved in acetone, and the hydrochloride was precipitated with ethereal hydrochloric acid.

reactant | 1-(7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-on-3-yl) -3-chloro propane | 0.02 mol, 5.9 gm | COC1=CC2=C(CC(N(C=C2)CCCCl)=O)C=C1OC | C15H18ClNO3
reactant | N-methyl-N-[2-(3,4-dimethoxy-phenyl)-ethyl]-amine | 0.0006 mol, 11.7 gm | CNCCC1=CC(=C(C=C1)OC)OC | C11H17NO2
solvent | ethyl acetate water | C(C)(=O)OCC.O
product | 7,8-Dimethoxy-1,3-dihydro-2H-3-benzazepin-2-on 3-[N-methyl-N-(2-{3,4-dimethoxyphenyl}-ethyl)-amino]-propane hydrochloride | COC1=CC2=C(CC(NC=C2)=O)C=C1OC.Cl.CN(CCC1=CC(=C(C=C1)OC)OC)CCC | InChI=1S/C14H23NO2.C12H13NO3.ClH/c1-5-9-15(2)10-8-12-6-7-13(16-3)14(11-12)17-4;1-15-10-5-8-3-4-13-12(14)7-9(8)6-11(10)16-2;/h6-7,11H,5,8-10H2,1-4H3;3-6H,7H2,1-2H3,(H,13,14);1H
